Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dysuria, abdominal pain, fever
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
In brief, Ms. ___ is a ___ year old female with no significant 
past medical history who presented to the ED with fever, 
dysuria, hematuria, and abdominal pain. Her symptoms began two 
days ago with dysuria, urinary frequency, and urgency. She has 
had these symptoms before. 1 day ago her symptoms progressed to 
fever, hematuria, abdominal pain, nausea, vomiting, and 
nonbloody diarrhea after which she presented to the ED. Notably, 
PO intake has been poor during this time. En route to the ED, 
she experienced a few episodes of syncope described as "blacking 
out" without head trauma. During this time, she denies 
palpitations, chest pain, dyspnea, and vaginal discharge. LMP 5 
days ago, sexually active with a single partner for ___ year. In 
the ED, she received total 5 L NS, Bactrim, and CTX prior to 
transfer to the floor.
 
Past Medical History:
No significant past medical history
 
Social History:
___
Family History:
Sister with "stomach problems" for ___ years now
No other family history of disease reported by patient
 
Physical Exam:
============================
ADMISSION PHYSICAL EXAM 
============================
VS - T98.5PO BP99/53 R Lying HR110 RR___ RA  
GENERAL: slim female laying in bed NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: Tachycardic RR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN III-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

============================
DISCHARGE PHYSICAL EXAM
============================
VS - 99.2 101/55 80 16 100%RA  
 General: Young female in NAD.  
 HEENT: anicteric sclerae, good dentition, MMM. no LAD  
 CV: RRR, normal S1 and S2, no murmurs  
 Lungs: CTAB, no wheezes or crackles  
 Torso: no CVA tenderness  
 Abdomen: active bowel sounds, soft, nondistended, nontender, no 
suprapubic tenderness  
 Ext: warm, well-perfused, distal pulses present throughout. No 
___ edema.  
 Neuro: CN II-XII grossly intact, motor strength ___. No focal 
deficits.  
 Skin: no rashes or skin lesions present on abdomen or 
extremities  

 
Pertinent Results:
==================
ADMISSION LABS
==================
CBC w/ Diff
___ 03:56PM BLOOD WBC-6.9 RBC-4.27 Hgb-10.7* Hct-35.4 
MCV-83 MCH-25.1* MCHC-30.2* RDW-14.8 RDWSD-44.8 Plt ___
___ 03:56PM BLOOD Neuts-87.9* Lymphs-6.2* Monos-5.4 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-6.05 AbsLymp-0.43* 
AbsMono-0.37 AbsEos-0.00* AbsBaso-0.01

Electrolytes
___ 03:56PM BLOOD Glucose-107* UreaN-8 Creat-0.7 Na-136 
K-3.0* Cl-102 HCO3-21* AnGap-16
___ 06:05AM BLOOD Calcium-7.8* Phos-2.5* Mg-1.7

LFTs
___ 06:05AM BLOOD ALT-6 AST-13 LD(LDH)-118 AlkPhos-49 
TotBili-0.2

Urinalysis
___ 07:00AM URINE Color-DkAmb Appear-Cloudy Sp ___
___ 07:00AM URINE Blood-MOD Nitrite-NEG Protein-100 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.0 Leuks-TR
___ 07:00AM URINE RBC->182* WBC->182* Bacteri-NONE 
Yeast-NONE Epi->182
___ 04:00PM URINE Mucous-RARE
___ 07:00AM URINE UCG-NEGATIVE

Iron Studies
___ 03:20PM BLOOD calTIBC-270 Ferritn-47 TRF-208
___ 03:20PM BLOOD Albumin-3.3* Calcium-8.0* Phos-1.7* 
Mg-1.6 Iron-12*

==================
DISCHARGE LABS
==================
___ 04:45AM BLOOD WBC-3.9* RBC-3.65* Hgb-9.2* Hct-30.3* 
MCV-83 MCH-25.2* MCHC-30.4* RDW-14.8 RDWSD-45.5 Plt ___
___ 04:45AM BLOOD Glucose-91 UreaN-3* Creat-0.6 Na-137 
K-3.9 Cl-104 HCO3-23 AnGap-14
___ 04:45AM BLOOD Calcium-8.7 Phos-2.5* Mg-1.8

===============
MICROBIOLOGY
===============
___ 4:00 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 1:20 pm URINE      Source: ___. 

   URINE CULTURE (Pending)

___ 1:20 pm URINE      Source: ___. 

   Chlamydia trachomatis, Nucleic Acid Probe, with Amplification 
(Pending)

   NEISSERIA GONORRHOEAE (GC), NUCLEIC ACID PROBE, WITH 
AMPLIFICATION
      (Pending)

=================
IMAGING/STUDIES
=================
PELVIC ULTRASOUND ___ IMPRESSION:  
1. Normal transabdominal pelvic ultrasound. 
2. The appendix is not definitively visualized. 

CT ABDOMEN/PELVIS WITH CONTRAST ___ IMPRESSION:  
1. Marked circumferential wall thickening and hyperemia of the 
urinary bladder is worrisome for cystitis ; correlate with 
urinalysis.  Hyperemia of the adjacent rectum may be reactive.  
Fluid throughout the colon to the rectum. 
2. Small to moderate pelvic free fluid. 
3. No bowel obstruction.  Normal caliber appendix. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old female with no significant past medical 
history who presented with dysuria, urinary frequency, urgency x 
2 days, which progressed to fever, abdominal pain, n/v, diarrhea 
x 1 day concerning for sepsis from urinary source. Diagnosis 
further supported by UA and CT findings. She was treated with IV 
ceftriaxone 1 g q24h and large volume fluid resuscitation, 
requiring 5 L NS and 5 L LR.

================
ACUTE ISSUES
================

#SEPSIS FROM URINARY SOURCE: 
Patient presented with dysuria, frequency, urgency, abdominal 
pain, diarrhea, and vomiting concerning for UTI, which 
progressed to fever and tachycardia concerning for sepsis from 
her UTI. UA and CT consistent with UTI. No CVA tenderness and 
negative imaging was less concerning for pyelonephritis. No CMT 
or vaginal symptoms concerning for PID at this point. She 
received 5 L NS and 5 L LR during her admission, Tylenol for 
pain, and 2 doses Bactrim before switching to IV ceftriaxone 1 g 
Q24h (start date ___. Urine cultures demonstrated mixed 
bacterial flora, and tests for gonococcus and chlamydia were 
pending at discharge. At discharge, symptoms were improving, 
patient was afebrile, hemodynamically stable. She was discharged 
to complete a total 10-day antibiotic course for complicated UTI 
with PO Bactrim (to be finished on ___.

#SYNCOPE
Patient reporting "blacking out" while in the ambulance. This 
likely represented presyncope/syncope in the setting of 
orthostasis. Patient likely hypovolemic in the setting of 
diarrhea, vomiting, sepsis. Neurogenic vaso-vagal episode less 
likely. And cardiogenic causes of syncope unlikely in an 
otherwise healthy young woman. Received 5 L NS and 5 L LR during 
admission with improvement in blood pressure and no further 
episodes of syncope. Formal orthostatics on hospital day 1 were 
negative. On discharge, patient was maintaining fluid status 
with PO hydration and did not require any further IVF.

#ABDOMINAL PAIN, VOMITING, DIARRHEA
Likely due to inflammation/systemic illness from urosepsis given 
timeline of symptoms and CT findings. Acute gastroenteritis 
possible, however symptoms resolved with antibiotic treatment 
which points more toward UTI as cause. Patient tolerating PO 
with improving diarrhea at discharge. She was discharged to 
complete a 10-day antibiotic course as described above. 

#NORMOCYTIC ANEMIA
Patient was found to be anemic to 10.2 on admission. She then 
developed a large drop in Hgb on first night of hospitalization 
from 10.2 to 8.8 likely due to hemodilution given that patient 
received 5 L NS in addition to about 1 L LR overnight. Patient 
has anemia with low-normal MCV. Most likely etiology is early 
iron deficiency anemia in a young, otherwise healthy female. 
Serum iron was low with low-normal ferritin. Hemolysis less 
likely with normal Tbili. Hemoglobin was increasing at discharge 
with no evidence of bleeding. Began ferrous sulfate 350mg PO BID 
at discharge with recommendation to follow up with a primary 
___ doctor as an outpatient and recheck a CBC following iron 
supplementation.

#HYPOKALEMIA
Likely in setting of emesis and diarrhea. We repleted potassium 
without recurrence of hypokalemia by discharge.

#NON-ANION GAP METABOLIC ACIDOSIS
Likely in setting of diarrhea. Other causes of non-gap acidosis 
are unlikely. Causes of anion gap metabolic acidosis (eg lactic 
acidosis in sepsis) are unlikely given the lack of an anion gap. 
This resolved following fluid resuscitation.

========================
TRANSITIONAL ISSUES
========================
[ ] Complete 10-day course of antibiotics for complicated UTI 
with Bactrim DS PO (___).
[ ] Follow up with student health services appointment in ___ 
days.
[ ] Recommend repeat CBC/iron studies at outpatient follow up.
[ ] Started ferrous sulfate supplements for iron deficiency 
anemia. 

 
Medications on Admission:
None
 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO BID 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
twice a day Disp #*30 Tablet Refills:*0 
2.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 7 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*14 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses: Complicated Cystitis, Anemia (unspecified)

Secondary Diagnoses: Recurrent Urinary Tract Infections

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___.

Why you were admitted to the hospital:
- You were having fevers, abdominal pain due to a 
bladder/urinary tract infection.
- You were also found to be anemic (low red blood cell count in 
your blood).This is likely due to low iron levels.

What was done while you were in the hospital:
- You were given IV antibiotics and IV fluids to treat your 
infection and improve your blood pressure. 

What you need to do when you go home:
- It is very important that you continue to take your antibiotic 
pills twice per day until ___ (7 more days).
- Please make an appointment at ___ Health 
and Counseling Services to follow up with a doctor in ___ days. 
The contact information for the student health office is below. 
- You are also being given iron supplement pills to improve your 
anemia. 

It was a pleasure taking ___ of you at ___.
___,
Your ___ ___ Team
 
Followup Instructions:
___